US05861417
3.3.3 Synthesis of 3-phenyl-3-(2-hydroxyethyl)pyrrolidine
Combine (3-phenyl-5-oxopyrrolidin-3-yl)acetic acid ethyl ester (171 g, 0.69 mol) and tetrahydrofuran (2 L). Cool to about 5° C. Slowly, add over about 15 minutes a solution of lithium aluminum hydride in tetrahydrofuran (2.24 L, 1M, 2.24 mol). After the addition is complete heat to about 60° C. After 18 hours, cool in an ice-bath. Slowly quench by adding a saturated aqueous solution of sodium potassium tartrate (208 mL). After the quench is complete, add Na2SO4 (100 g) and celite (150 g) and stir. After 3 hours, dilute the reaction mixture with tetrahydrofuran (2 L) and filter. Suspend the solids in diethyl ether (2 L) and filter. Combine the filtrates and concentrate the in vacuo to give the title compound: mp; 106°-110° C. Rf =0.12 (silica gel dichloromethane/methanol/ concentrated aqueous ammonia, 9/1/0.1).

reactant | (3-phenyl-5-oxopyrrolidin-3-yl)acetic acid ethyl ester | 0.69 mol, 171 g | C(C)OC(CC1(CNC(C1)=O)C1=CC=CC=C1)=O | C14H17NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.24 mol, 1M, 2.24 L | O1CCCC1 | C4H8O
product | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
